US04906621
A solution of 1.0 g of cis-1-benzyloxycarbonyl-4-(dimethylphosphonomethyl)-2-piperidinecarboxylic acid in 30 ml of ethanol is hydrogenated at 3 atmospheres pressure over 500 mg of 10% palladium on carbon catalyst in 30 ml of ethanol. Filtration and removal of solvent affords cis-4-dimethylphosphonomethyl-2-piperidine-carboxylic acid as an amorphous solid.

reactant | cis-1-benzyloxycarbonyl-4-(dimethylphosphonomethyl)-2-piperidinecarboxylic acid | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](CC1)CP(=O)(OC)OC)C(=O)O | C17H24NO7P
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | cis-4-dimethylphosphonomethyl-2-piperidine-carboxylic acid | COP(=O)(OC)C[C@@H]1C[C@@H](NCC1)C(=O)O | C9H18NO5P
